US08138187B2
3-(2-(Pyrrolidin-1-yl)ethyl)-1H-indole (Ind-66)
Pyrrolidine (3.17 g, 3.7 ml, 44.6 mmol) was dissolved in abs. dioxane (100 ml), 3-(2-bromo-ethyl)-1H-indole (5 g, 22.3 mmol) was added at RT and the mixture was stirred at 70° C. for 8 h. The solution was concentrated, the residue was taken up in CHCl3 (150 ml) and the mixture was washed with water (2×50 ml). The organic phase was dried over Na2SO4, filtered and concentrated i. vac.

reactant | Pyrrolidine | 44.6 mmol, 3.7 ml, 3.17 g | N1CCCC1 | C4H9N
reactant | 3-(2-bromo-ethyl)-1H-indole | 22.3 mmol, 5 g | BrCCC1=CNC2=CC=CC=C12 | C10H10BrN
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-(2-(Pyrrolidin-1-yl)ethyl)-1H-indole | N1(CCCC1)CCC1=CNC2=CC=CC=C12 | C14H18N2
